US07351719B2
166a) ethyl (2-fluoro-4-trifluoromethyl-phenylamino)-acetate
Prepared analogously to Example 165a starting from 2-fluoro-4-trifluoromethyl-phenylamine and ethyl bromoacetate. The crude product was purified by column chromatography (silica gel, gradient dichloromethane/MeOH 20:0→19:1).

reactant | 2-fluoro-4-trifluoromethyl-phenylamine | FC1=C(C=CC(=C1)C(F)(F)F)N | C7H5F4N
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | ethyl (2-fluoro-4-trifluoromethyl-phenylamino)-acetate | FC1=C(C=CC(=C1)C(F)(F)F)NCC(=O)OCC | C11H11F4NO2
